US07790737B2
N-{5-[2-(Methylthio)ethoxy]pyrimidin-2-yl}hexanamide (6.8 g, 24 mmol) was suspended in methanol (68 mL), the suspension was added with sodium methoxide (1 M solution in methanol, 120 mL, 120 mmol), the substances in the suspension were dissolved on an oil bath at 60° C., and the solution was stirred at the same temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, the resulting residue was extracted with chloroform and water, and the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was washed with ether-hexane, and taken by filtration to obtain 5-[2-(methylthio)ethoxy]pyrimidin-2-amine (2.93 g, 59%) as pale yellow solid.

reactant | N-{5-[2-(Methylthio)ethoxy]pyrimidin-2-yl}hexanamide | 24 mmol, 6.8 g | CSCCOC=1C=NC(=NC1)NC(CCCCC)=O | C13H21N3O2S
reactant | sodium methoxide | 120 mmol, 1 M, 120 mL | C[O-].[Na+]
solvent | methanol | 68 mL | CO | CH4O
product | 5-[2-(methylthio)ethoxy]pyrimidin-2-amine | 2.93 g, 59% | CSCCOC=1C=NC(=NC1)N | C7H11N3OS
